US09376418B2
A solution of trans-butyl 4-(1-(5-(3-(4-cyclopropylpyrimidin-2-ylamino)-5-methylphenyl)pyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate (61.0 mg, 0.095 mmol) and NaOH (1 M, 0.480 ml, 0.480 mmol) in MeOH (1 mL) was heated to 80° C. for 1 hour. The reaction mixture was cooled to room temperature, acidified with aqueous 1N HCl and diluted with 9:1 CHCl3:IPA. The mixture was then diluted with water and extracted with 9:1 CHCl3:IPA (3×). The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure to afford trans-4-(1-(5-(3-(4-cyclopropylpyrimidin-2-ylamino)-5-methylphenyl)pyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylic acid. MS ESI calc'd for C28H33N4O3 [M+H]+ 473. found 473. 1H NMR (500 MHz, DMSO-d6) δ 9.57 (s, 1H), 8.75 (s, 1H), 8.49 (br s, 1H), 8.27 (d, J=5.0 Hz, 1H), 8.00 (br s, 1H), 7.97 (s, 1H), 7.66 (s, 1H), 7.19 (s, 1H), 6.82 (d, J=5.0 Hz, 1H), 5.74 (s, 1H), 2.35 (s, 3H), 2.04-1.73 (m, 5H), 1.56 (s, 3H), 1.30-1.22 (m, 5H), 1.05-1.01 (m, 5H).

reactant | trans-butyl 4-(1-(5-(3-(4-cyclopropylpyrimidin-2-ylamino)-5-methylphenyl)pyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate | 0.095 mmol, 61.0 mg | C1(CC1)C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=CC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C32H40N4O3
reactant | NaOH | 0.480 mmol, 1 M, 0.480 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | IPA | CC(C)O | C3H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | trans-4-(1-(5-(3-(4-cyclopropylpyrimidin-2-ylamino)-5-methylphenyl)pyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylic acid | C1(CC1)C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=CC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)O | C28H32N4O3
